US07915267B2
methyl N-[(4-bromophenyl)sulfonyl]valinate
To a suspension of methyl valinate hydrochloride (10.0 g, 59.7 mmol) and sodium carbonate (15.8 g, 149 mmol) in acetone (200 ml)-water (100 mL) was added 4-bromobenzenesulfonyl chloride (12.7 g, 49.7 mmol) at 0° C., and the mixture was stirred at room temperature for 12 hr after addition. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with 0.1N hydrochloric acid, water and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from hexane-ethyl acetate to give the title compound as a white powder (14.7 g, 84%).

reactant | methyl valinate hydrochloride | 59.7 mmol, 10.0 g | Cl.N[C@@H](C(C)C)C(=O)OC
reactant | sodium carbonate | 149 mmol, 15.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 100 mL | O | H2O
reactant | 4-bromobenzenesulfonyl chloride | 49.7 mmol, 12.7 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | methyl N-[(4-bromophenyl)sulfonyl]valinate | 14.7 g, 84% | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C12H16BrNO4S
